US05212169
Preparation of N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-3-[(2-thienylmethyl)amino]propanamide, monohydrochloride
A mixture of 3-amino-N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]-oxazepin-10-yl)-2-oxoethyl]-propanamide, monohydrochloride (2.00 grams) in methanol (160 mL) and potassium hydroxide (0.38 gram) was stirred at room temperature until a solution formed. To this was added a solution of thiophene-2-carboxaldehyde (0.62 gram) in methanol (20 mL), and the solution was stirred at room temperature under a nitrogen atmosphere for 4 hours. To the solution was then added sodium cyanoborohydride (0.46 gram), and the pH of the reaction was adjusted to approximately 6 with acetic acid. The reaction was stirred at room temperature under a nitrogen atmosphere for 48 hours, made acidic to pH 2 with 2 N HCl, and evaporated in vacuo. The residue was suspended in water (150 mL), made basic to pH 11 with 1N NaOH, and extracted with chloroform (150 mL, and then 2×100 mL). The combined chloroform extracts were washed with 1N NaOH (2×100 mL), water (100 mL) and brine (150 mL), dried over MgSO4, and evaporated in vacuo. The crude product was purified by flash chromatography through silica gel 60 (350 mL) using 95:5 chloroform:ethanol (3A). The purified product was taken up in absolute ethanol (20 mL), cooled in an ice water bath, and acidified with 9.5 M HCl in ethanol (1.5 mL). After several minutes, the solution was evaporated in vacuo, and the resulting foam was dried in vacuo at 56° C. The yield of the title compound was 0.79 gram (32%). Analysis calculated for C23H22ClN3O3S×1 HCl: C, 56.10; H, 4,71; N, 8.53; Cl, 14.40; S, 6.51 Found: C, 55.74; H, 4.72; N, 8.47; Cl, 14.51; S, 6.49.

reactant | 3-amino-N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]-oxazepin-10-yl)-2-oxoethyl]-propanamide, monohydrochloride | 2.00 grams | Cl.NCCC(=O)NCC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl
reactant | potassium hydroxide | 0.38 gram | [OH-].[K+]
reactant | thiophene-2-carboxaldehyde | 0.62 gram | S1C(=CC=C1)C=O | C5H4OS
reactant | sodium cyanoborohydride | 0.46 gram | C(#N)[BH3-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 160 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepin-10-yl)-2-oxoethyl]-3-[(2-thienylmethyl)amino]propanamide, monohydrochloride | Cl.ClC1=CC2=C(OC3=C(CN2C(CNC(CCNCC=2SC=CC2)=O)=O)C=CC=C3)C=C1 | InChI=1S/C23H22ClN3O3S.ClH/c24-17-7-8-21-19(12-17)27(15-16-4-1-2-6-20(16)30-21)23(29)14-26-22(28)9-10-25-13-18-5-3-11-31-18;/h1-8,11-12,25H,9-10,13-15H2,(H,26,28);1H
